US06855722B2
b) 3-(5-{2-[Guanidino-oxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid
3-(5-{2-[guanidino-oxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester (0.30 gg, 0.71 mmol) was dissolved in 70% methanol/water (4 mL) and lithium hydroxide monohydratate (0.70 g, 4.67 mmol) was added. The reaction was stirred for 16 h at room temperature under an argon atmosphere. The solution was neutralized with 1.0 N HCl (4.67 mL) and the solvent was evaporated under vacuum. The crude mixture was purified via column chromatography with silica gel, eluting with 10% methanol/dichloromethane to afford the title compound (80% yield). 1H NMR (CD3OD-d4) δ 7.34 (d, 1H, J=3.2 Hz), 7.06-7.15 (m, 6H), 6.97 (d, 1H, J=2.3 Hz), 6.65 (dd, 1H, J=2.5, 9.0 Hz), 6.31 (d, 1H, J=3.2 Hz), 5.93 (t, 1H, J=7.0 Hz), 4.01 (m, 4H), 3.07 (m, 2H).

reactant | 3-(5-{2-[guanidino-oxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester | 0.71 mmol | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCONC(=N)N)=O | C22H26N4O4
reactant | lithium hydroxide | [OH-].[Li+]
reactant | HCl | 1.0 N, 4.67 mL | Cl | ClH
solvent | methanol water | 4 mL | CO.O
product | 3-(5-{2-[Guanidino-oxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid | 80% yield | N(C(=N)N)OCCOC=1C=C2C=CN(C2=CC1)C(CC(=O)O)C1=CC=CC=C1 | C20H22N4O4
